US08604055B2
Scheme (ix) Synthesis of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-6-methyl-quinolin-4-yl)-bis-cyclopropylmethyl-amine
A mixture of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-6-methyl-quinolin-4-yl)-bis-cyclopropylmethyl-amine (700 mg, 1.18 mmol) and sodium hydride (60%) (61 mg, 1.5 mmol) in DMF (25 mL) was stirred at 0° C. for 5 min. To this, methyl iodide (337 g, 2 mmol) was then added and stirring was continued for another 30 min. The reaction mixture was diluted with EtOAc (200 mL) and washed with water (200 mL×4) and finally with brine (100 mL). The organic layer was separated, dried over sodium sulphate and concentrated under vacuum. The crude product was purified by column chromatography (silica gel 230-400 mesh). Elution with 1.5% EtOAc in hexane afforded 0.205 gm of gummy mass (yield: 28.63%).

reactant | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-6-methyl-quinolin-4-yl)-bis-cyclopropylmethyl-amine | 1.18 mmol, 700 mg | FC(C=1C=C(CN(C=2N=NNN2)CC=2C=NC3=CC=C(C=C3C2N(CC2CC2)CC2CC2)C)C=C(C1)C(F)(F)F)(F)F | C29H29F6N7
reactant | sodium hydride | 1.5 mmol, 61 mg | [H-].[Na+]
reactant | methyl iodide | 2 mmol, 337 g | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-6-methyl-quinolin-4-yl)-bis-cyclopropylmethyl-amine | yield: 28.63% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C=NC3=CC=C(C=C3C2N(CC2CC2)CC2CC2)C)C=C(C1)C(F)(F)F)(F)F | C30H31F6N7
